US09403846B2
Step 8: Synthesis of (3aR,5R,7aS)-7a-(2,4-difluorophenyl)-5-[(2S)-tetrahydrofuran-2-yl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C100)
(3aR,5R)-5-[(2S)-Tetrahydrofuran-2-yl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C99) was converted to the product using the method described for the synthesis of 7a-(2,4-difluorophenyl)-5-[(1R,2R)-2-methylcyclopropyl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C86) in Example 20. Yield: 1.4 g, 4.5 mmol, 36%. LCMS m/z 312.1 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 7.89-7.95 (m, 1H), 6.87-6.91 (m, 1H), 6.77-6.83 (m, 1H), 6.29 (s, 1H), 4.10 (dd, J=12.5, 1.5 Hz, 1H), 3.72-3.92 (m, 5H), 3.53-3.57 (m, 2H), 3.07 (dt, J=11.4, 5.6 Hz, 1H), 1.79-2.03 (m, 5H), 1.46-1.55 (m, 1H).

reactant | (3aR,5R)-5-[(2S)-Tetrahydrofuran-2-yl]-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | O1[C@@H](CCC1)[C@H]1C[C@@H]2C(=NOC2)CO1 | C10H15NO3
reactant | 7a-(2,4-difluorophenyl)-5-[(1R,2R)-2-methylcyclopropyl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole | FC1=C(C=CC(=C1)F)C12NOCC1CC(OC2)[C@H]2[C@@H](C2)C | C16H19F2NO2
product | (3aR,5R,7aS)-7a-(2,4-difluorophenyl)-5-[(2S)-tetrahydrofuran-2-yl]hexahydro-1H-pyrano[3,4-c][1,2]oxazole | FC1=C(C=CC(=C1)F)[C@@]12NOC[C@@H]1C[C@@H](OC2)[C@H]2OCCC2 | C16H19F2NO3
